US08486967B2
b) 1-(5-Methyl-[1,3,4]oxadiazol-2-yl)-piperidin-4-ylamine
To a solution of 1-(5-methyl-[1,3,4]oxadiazol-2-yl)-piperidin-4-one O-benzyl-oxime (2.32 g, 8.1 mmol)) in 7 M NH3 solution in MeOH (40.5 mL) was hydrogenated under an atmosphere of hydrogen in the presence of Palladium on charcoal (10%, 464 mg). The catalyst was filtered off and washed with MeOH. The filtrate was concentrated under reduced pressure to yield the title compound (1.61 g, 100%) as a yellow solid.

reactant | 1-(5-methyl-[1,3,4]oxadiazol-2-yl)-piperidin-4-one O-benzyl-oxime | 8.1 mmol, 2.32 g | C(C1=CC=CC=C1)ON=C1CCN(CC1)C=1OC(=NN1)C | C15H18N4O2
solvent | NH3 | 7 M | N | H3N
solvent | MeOH | 40.5 mL | CO | CH4O
catalyst | Palladium on charcoal | 464 mg | [Pd] | Pd
product | 1-(5-Methyl-[1,3,4]oxadiazol-2-yl)-piperidin-4-ylamine | 1.61 g, 100% | CC1=NN=C(O1)N1CCC(CC1)N | C8H14N4O
